US08080580B2
(3S,4S,5R)-6-allyloxy-3,4,5-tris-benzyloxy-2,2-bis-(4-methoxy-benzyloxymethyl)-tetrahydro-pyran (I-1c)
The starting diol [((3S,4S,5R)-6-allyloxy-3,4,5-tris-benzyloxy-2-hydroxymethyl-tetrahydro-pyran-2-yl)-methanol (I-1b: 10 g, 19.208 mmol) was dissolved in N,N-dimethylformamide (70 mL) and cooled to 0° C. Sodium hydride (60% dispersion in mineral oil, 1.69 g, 42.3 mmol) was added and the reaction was allowed to stir at 0° C. for 1 hour before the addition of 1-bromomethyl-4-methoxy-benzene (5.96 mL, 40.3 mmol). The reaction was then heated to 60° C. overnight. The mixture was cooled down to room temperature and the reaction was quenched with water and extracted with ethyl acetate (2 times). The combined organic layers were washed with water, brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. The reaction was then chromatographed over silica gel (eluting with a gradient of 0 to 80% ethyl acetate in heptane) yielding 7.55 g (52% yield) of product (I-1c). MS 778.8 (M+NH4+; positive mode).

reactant | ((3S,4S,5R)-6-allyloxy-3,4,5-tris-benzyloxy-2-hydroxymethyl-tetrahydro-pyran-2-yl)-methanol | 19.208 mmol, 10 g | C(C=C)OC1[C@@H]([C@H]([C@@H](C(O1)(CO)CO)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C31H36O7
reactant | Sodium hydride | 42.3 mmol, 1.69 g | [H-].[Na+]
reactant | 1-bromomethyl-4-methoxy-benzene | 40.3 mmol, 5.96 mL | BrCC1=CC=C(C=C1)OC | C8H9BrO
solvent | N,N-dimethylformamide | 70 mL | CN(C=O)C | C3H7NO
product | (3S,4S,5R)-6-allyloxy-3,4,5-tris-benzyloxy-2,2-bis-(4-methoxy-benzyloxymethyl)-tetrahydro-pyran | 7.55 g, 52% yield | C(C=C)OC1[C@@H]([C@H]([C@@H](C(O1)(COCC1=CC=C(C=C1)OC)COCC1=CC=C(C=C1)OC)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C47H52O9
